US05543419
(R)-3-Quinuclidinyl (RS)-4-(methylthio)-2-phenylbutanoate
Sodium hydride (0.64 g, as an 80% dispersion in oil) was added to a mixture of methyl-(RS)-4-(methylthio)-2-phenylbutanoate (see Preparation 11) (19.1 g) and (R)-3-quinuclidinol (prepared as described in Acta. Pharm. Suec., 281, 16, 1979) (12.7 g) in toluene (440 ml). The mixture was refluxed with continuous removal of distillate and when necessary replacement with fresh toluene for 1.5 hours. The cooled mixture was extracted with 2M hydrochloric acid, the aqueous layer washed with ethylacetate, basified with potassium carbonate and extracted with chloroform. The organic layer was dried over sodium sulphate, evaporated and the residue partitioned between ethylacetate and aqueous 10% potassium carbonate. The organic layer was dried over sodium sulphate and evaporated to leave the title compound (22.4 g, 82%) as a yellow oil.

reactant | Sodium hydride | [H-].[Na+]
reactant | methyl-(RS)-4-(methylthio)-2-phenylbutanoate | 19.1 g | COC(C(CCSC)C1=CC=CC=C1)=O | C12H16O2S
reactant | (R)-3-quinuclidinol | 12.7 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | toluene | 440 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-3-Quinuclidinyl (RS)-4-(methylthio)-2-phenylbutanoate | 22.4 g, 82% | CSCCC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C18H25NO2S
